US06388084B1
N-[(2-chloro-6-methylphenyl)carbonyl]-4-(1,4-dimethyl-6-(trifluoromethyl)-2-oxo-3-pyridinyl)-L-phenylalanine was prepared from 4-[1,4-dimethyl-6-(trifluoromethyl)-2-oxo-3-pyridinyl]-L-phenylalanine methyl ester and 2-chloro-6-methylbenzoyl chloride using the general procedures described in example 44. ES-LRMS m/z 507.1 (M+H), 529.1 (M+Na).

reactant | 4-[1,4-dimethyl-6-(trifluoromethyl)-2-oxo-3-pyridinyl]-L-phenylalanine methyl ester | COC([C@@H](N)CC1=CC=C(C=C1)C=1C(N(C(=CC1C)C(F)(F)F)C)=O)=O | C18H19F3N2O3
reactant | 2-chloro-6-methylbenzoyl chloride | ClC1=C(C(=O)Cl)C(=CC=C1)C | C8H6Cl2O
product | N-[(2-chloro-6-methylphenyl)carbonyl]-4-(1,4-dimethyl-6-(trifluoromethyl)-2-oxo-3-pyridinyl)-L-phenylalanine | ClC1=C(C(=CC=C1)C)C(=O)N[C@@H](CC1=CC=C(C=C1)C=1C(N(C(=CC1C)C(F)(F)F)C)=O)C(=O)O | C25H22ClF3N2O4
